US08247429B2
2-methyl-6,7-dihydrocyclopenta[e]indazol-8(2H)-one
To a suspension of 60% sodium hydride (145 mg, 3.62 mmol) in tetrahydrofuran (10 mL) were added a solution of methyl 5-(3-methoxy-3-oxopropyl)-2-methyl-2H-indazole-4-carboxylate (500 mg, 1.81 mmol) in tetrahydrofuran (10 mL) and methanol (1 drop), and the mixture was heated under reflux for 3 hr. The reaction solution was concentrated to dryness to give yellow-brown crystals. The obtained crystals were gradually added to 12M hydrochloric acid (5 mL) heated to 100° C., and the mixture was stirred for 4 hr. The reaction solution was neutralized with 8M aqueous sodium hydroxide solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate) to give the title compound (285 mg, yield 85%).

reactant | sodium hydride | 3.62 mmol, 145 mg | [H-].[Na+]
reactant | methyl 5-(3-methoxy-3-oxopropyl)-2-methyl-2H-indazole-4-carboxylate | 1.81 mmol, 500 mg | COC(CCC1=C(C2=CN(N=C2C=C1)C)C(=O)OC)=O | C14H16N2O4
reactant | hydrochloric acid | 12M, 5 mL | Cl | ClH
reactant | sodium hydroxide | 8M | [OH-].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | methanol | 1 drop | CO | CH4O
product | 2-methyl-6,7-dihydrocyclopenta[e]indazol-8(2H)-one | 285 mg, yield 85% | CN1N=C2C=CC3=C(C2=C1)C(CC3)=O | C11H10N2O
